US04678792
2-Benzyl-6,7-dimethoxy-3,4-dihydroisoquinolinium chloride
The title compound is prepared analogously to Example A from 6,7-dimethoxy-3,4-dihydroisoquinoline and benzyl chloride in dioxan. The melting point: 181°-183° C. (Decomp.)

reactant | 6,7-dimethoxy-3,4-dihydroisoquinoline | COC=1C=C2CCN=CC2=CC1OC | C11H13NO2
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 2-Benzyl-6,7-dimethoxy-3,4-dihydroisoquinolinium chloride | [Cl-].C(C1=CC=CC=C1)[N+]1=CC2=CC(=C(C=C2CC1)OC)OC | InChI=1S/C18H20NO2.ClH/c1-20-17-10-15-8-9-19(12-14-6-4-3-5-7-14)13-16(15)11-18(17)21-2;/h3-7,10-11,13H,8-9,12H2,1-2H3;1H/q+1;/p-1
